### PR TITLE
[Merged by Bors] - chore(Analysis/Distribution): split off functions and measures of temperate growth 

### PR DESCRIPTION
**Pull request by mcdoll**
The Schwartz function file reached 1500 lines of code, so it really needs splitting.

The only other change is that I added namespaces and moved one lemma into the `MeasureTheory.Measure` namespace to allow for dot-notation.

---

I've added Anatole to the list of authors for the `BigO` additions, I don't know whether there is someone else that should be mentioned. @mans0954 did you contribute to the temperate growth functions?

I did not write any new doc-strings, so that this PR does not get hung up on that, but this should be done in a subsequent PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 1]
```diff
@@ -0,0 +1,239 @@
+/-
+Copyright (c) 2025 Moritz Doll. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Moritz Doll, Anatole Dedecker
+-/
+import Mathlib.Analysis.Calculus.IteratedDeriv.Defs
+import Mathlib.Analysis.SpecialFunctions.JapaneseBracket
+
+
+/-! ### Functions of temperate growth -/
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
/-! # Functions and measures of temperate growth -/
```

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 2]
```diff
@@ -0,0 +1,239 @@
...
+
+namespace MeasureTheory.Measure
+
+open Module
+open scoped ENNReal
+
+/-- A measure `μ` has temperate growth if there is an `n : ℕ` such that `(1 + ‖x‖) ^ (- n)` is
+`μ`-integrable. -/
+class HasTemperateGrowth (μ : Measure D) : Prop where
+  exists_integrable : ∃ (n : ℕ), Integrable (fun x ↦ (1 + ‖x‖) ^ (- (n : ℝ))) μ
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean:124]: This has nothing to do with the PR, but why are you using real exponents here? Doesn't it make things more complicated?

Comment (mcdoll) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:124]: Honestly, I don't remember and I agree it looks a bit funny. You do need either real or integer powers, so it might have been easier just do change `n` to be real or integer.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 3]
```diff
@@ -0,0 +1,239 @@
...
+derivative is `O((1 + ‖x‖) ^ k)` for some `k : ℕ` (depending on `n`).
+
+Note that the `O` here is with respect to the `⊤` filter, meaning that the bound holds everywhere.
+
+TODO: when `E` is finite dimensional, this is equivalent to the derivatives being `O(‖x‖ ^ k)`
+as `‖x‖ → ∞`.
+-/
+theorem hasTemperateGrowth_iff_isBigO {f : E → F} :
+    f.HasTemperateGrowth ↔ ContDiff ℝ ∞ f ∧
+      ∀ n, ∃ k, iteratedFDeriv ℝ n f =O[⊤] (fun x ↦ (1 + ‖x‖) ^ k):= by
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
      ∀ n, ∃ k, iteratedFDeriv ℝ n f =O[⊤] (fun x ↦ (1 + ‖x‖) ^ k) := by
```
(This was already present in the initial file, but while we're here...)

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 4]
```diff
@@ -0,0 +1,239 @@
...
+  simp_rw [Asymptotics.isBigO_top]
+  congrm ContDiff ℝ ∞ f ∧ (∀ n, ∃ k C, ∀ x, _ ≤ C * ?_)
+  rw [norm_pow, Real.norm_of_nonneg (by positivity)]
+
+/-- If `f` as temperate growth, then its `n`-th iterated derivative is `O((1 + ‖x‖) ^ k)` for
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
/-- If `f` has temperate growth, then its `n`-th iterated derivative is `O((1 + ‖x‖) ^ k)` for
```
(I think this one is my fault...)

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 5]
```diff
@@ -0,0 +1,239 @@
...
+some `k : ℕ` (depending on `n`).
+
+Note that the `O` here is with respect to the `⊤` filter, meaning that the bound holds everywhere.
+-/
+theorem HasTemperateGrowth.isBigO {f : E → F}
+    (hf_temperate : f.HasTemperateGrowth) (n : ℕ) :
+    ∃ k, iteratedFDeriv ℝ n f =O[⊤] (fun x ↦ (1 + ‖x‖) ^ k) :=
+  Function.hasTemperateGrowth_iff_isBigO.mp hf_temperate |>.2 n
+
+/-- If `f` as temperate growth, then for any `N : ℕ` one can find `k` such that *all* iterated
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
/-- If `f` has temperate growth, then for any `N : ℕ` one can find `k` such that *all* iterated
```

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 6]
```diff
@@ -0,0 +1,239 @@
...
+  choose k hk using hf_temperate.isBigO
+  use (Finset.range (N + 1)).sup k
+  intro n hn
+  refine (hk n).trans (isBigO_of_le _ fun x ↦ ?_)
+  rw [Real.norm_of_nonneg (by positivity), Real.norm_of_nonneg (by positivity)]
+  gcongr
+  · simp
+  · exact Finset.le_sup (by simpa [← Finset.mem_range_succ_iff] using hn)
+
+theorem HasTemperateGrowth.norm_iteratedFDeriv_le_uniform_aux {f : E → F}
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean:71]: I think you missed my comment on a previous PR about this, but why is there `aux` in this name? The renaming can wait if you want.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 7]
```diff
@@ -0,0 +1,239 @@
...
+temperate growth. -/
+def integrablePower (μ : Measure D) : ℕ :=
+  if h : μ.HasTemperateGrowth then h.exists_integrable.choose else 0
+
+lemma integrable_pow_neg_integrablePower
+    (μ : Measure D) [h : μ.HasTemperateGrowth] :
+    Integrable (fun x ↦ (1 + ‖x‖) ^ (- (μ.integrablePower : ℝ))) μ := by
+  simpa [Measure.integrablePower, h] using h.exists_integrable.choose_spec
+
+instance IsFiniteMeasure.instHasTemperateGrowth {μ : Measure D}
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
instance _root_.MeasureTheory.IsFiniteMeasure.instHasTemperateGrowth {μ : Measure D}
```
(Since `IsFiniteMeasure` is in the `MeasureTheory` namespace)

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 8]
```diff
@@ -0,0 +1,239 @@
...
+      apply mul_le_mul _ _ (by positivity) (by positivity)
+      · exact Real.rpow_le_rpow_of_nonpos (by linarith) (by linarith) (by simp)
+      · exact h₂.trans (by linarith)
+
+variable [BorelSpace D] [SecondCountableTopology D] in
+/-- Given a function such that `f` and `x ^ (k + l) * f` are bounded for a suitable `l`, then
+`x ^ k * f` is integrable. The bounds are not relevant for the integrability conclusion, but they
+are relevant for bounding the integral in `integral_pow_mul_le_of_le_of_pow_mul_le`. We formulate
+the two lemmas with the same set of assumptions for ease of applications. -/
+-- We redeclare `E` here to avoid the `NormedSpace ℝ E` typeclass available throughout this file.
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean:180]: Could you avoid this by limiting the assumption to the first section?

**Review by ADedecker — APPROVED** [review]
Sorry for the delay.

Could you ask Christopher on Zulip about the authorship ? Other than that and these small comments I think this is ready to go.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 6 above)
Comment (mcdoll) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:71]: No, I saw it and had a think about it and couldn't come up with a good answer - maybe at that time I thought it was purely technical. I am happy to rename it, but I would slightly prefer doing it in a separate PR (can do it right after this one got merged)

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 8 above)
Comment (mcdoll) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:180]: Also with this, how do you feel about fixing this in a subsequent PR? Again I am happy to do it, but I feel it should not be done in this PR.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 9]
```diff
@@ -0,0 +1,239 @@
+/-
+Copyright (c) 2025 Moritz Doll. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Moritz Doll, Anatole Dedecker
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
Authors: Moritz Doll, Anatole Dedecker, Sébastien Gouëzel
```

**Review by mcdoll — COMMENTED** [review]
Did a check with git blame and the parts that I was not remembering doing myself were by Sebastien for the Fourier transform.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:71]: Sure!

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 8 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:180]: Sure!

**Comment by ADedecker** [comment]
Thanks!

bors d+

**Comment by mcdoll** [comment]
Thanks for the review! I will do the two issues that have come up tomorrow.
bors merge

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 6 above)
Comment (mcdoll) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:71]: #31073

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 8 above)
Comment (mcdoll) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean:180]: #31075
